US09029391B2
3-(chloromethyl)-4-(2,4-dimethylphenyl)-2-methyl-1(2H)-isoquinolinone
A suspension of 4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid (21.6 g) in thionyl chloride (218 mL, 2987 mmol) was heated at 70° C. for 2 hours. The mixture was concentrated, dissolved in tetrahydrofuran (THF) (15 mL), and treated with sodium borohydride (0.929 g, 24.56 mmol). The resulting mixture was heated to 70° C. for 2 hours until LCMS indicated complete reaction. The mixture was cooled to 0° C. and methanol was added until gas evolution ceased. The mixture was concentrated, diluted with water and then extracted three times with dichloromethane. The combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was treated with thionyl chloride (20 mL) and heated at 70° C. for 2 hours. The mixture was concentrated and then purified on silica gel (0-70% EA/Hexane) to afford the title compound (1.17 g, 76%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.46-8.59 (m, 1 H) 7.47-7.57 (m, 2 H) 7.05-7.24 (m, 3 H) 6.87-6.99 (m, 1 H) 4.43-4.55 (m, 1 H) 4.31-4.41 (m, 1 H) 3.86 (s, 3 H) 2.43 (s, 3 H) 2.01 (s, 3 H). LC/MS (m/z) ES+=312 (M+1).

reactant | 4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid | 21.6 g | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)C(=O)O | C19H17NO3
reactant | thionyl chloride | 2987 mmol, 218 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium borohydride | 24.56 mmol, 0.929 g | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 3-(chloromethyl)-4-(2,4-dimethylphenyl)-2-methyl-1(2H)-isoquinolinone | 1.17 g, 76% | ClCC=1N(C(C2=CC=CC=C2C1C1=C(C=C(C=C1)C)C)=O)C | C19H18ClNO
